US04933350
An aqueous solution of fluoroboric acid (48% w/v; 33 ml) was added to a stirred solution of 1-cyano-2-isobutyryl-1,2-dihydroisoquinoline (6.78 g; prepared according to the method described by F. D. Popp and A. Soto, J. Chem. Soc., 1963, 1760) in acetic acid (25 ml) at 60° C. The solution was stirred for 15 minutes and then cooled to 5° C. The solid was collected, washed thoroughly with diethyl ether and dried, to give 1-amino-3-isopropyloxazolo[4,3-a]isoquinolinium tetrafluoroborate (8.55 g) in the form of a pale yellow solid, m.p. 181°-183° C. [Elemental analysis: C, 53.0; H, 4.78; N, 8.9%; Calculated: C, 53.5; H, 4.81; N, 8 9%; N.M.R. in CD3CN): 1.44 (6H, d, J=7 Hz), 3.68 (1H, septet, J=7 Hz), 5.90 (2H, broad s), 7.27 (1H, d, J=8 Hz), 7.48-7.72 (4H, m), 7.92 (1H, d, J=8 Hz); Mass spectrum (fast atom bombardment) m/e=227].

reactant | fluoroboric acid | 33 ml | F[B-](F)(F)F.[H+]
reactant | 1-cyano-2-isobutyryl-1,2-dihydroisoquinoline | C(#N)C1N(C=CC2=CC=CC=C12)C(C(C)C)=O | C14H14N2O
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 1-amino-3-isopropyloxazolo[4,3-a]isoquinolinium tetrafluoroborate | 8.55 g | F[B-](F)(F)F.NC=1OC(=[N+]2C1C1=CC=CC=C1C=C2)C(C)C | InChI=1S/C14H15N2O.BF4/c1-9(2)14-16-8-7-10-5-3-4-6-11(10)12(16)13(15)17-14;2-1(3,4)5/h3-9H,15H2,1-2H3;/q+1;-1
